US06143764
N-(4-Chloro-2-methylphenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea [242]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (55 mg) was dissolved in toluene (5 ml) with heat, 4-chloro-2-methylphenyl isocyanate (90 mg) was added, and the admixture was refluxed with heat for 26 minutes. The separated crystals were filtered and then washed with toluene to obtain 69 mg of the title compound (yield: 80%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 55 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 4-chloro-2-methylphenyl isocyanate | 90 mg | ClC1=CC(=C(C=C1)N=C=O)C | C8H6ClNO
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-Chloro-2-methylphenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea | 69 mg, yield: 80% | ClC1=CC(=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)C | C25H22ClN3O4
